US06518283B1
N BOC-O-(3,5-Dichloroisonicotinoyl)-L-tyrosine methyl ester
A solution of N-BOC-L-tyrosine methyl ester (2.95 g, 10 mmol) in THF (10 ml) was added to a suspension of NaH (60% in oil, 11 mmol, 440 mg) in THF (30 ml) at 0°. After 10 min, a solution of 3,5-dichloroisonicotinoyl chloride (11 mml, 2.32 g) in THF (10 ml) was added and the mixture stirred at RT for 4 h. NH4Cl (aq) was added and the mixture extracted with DCM. The DCM extracts were dried (Na2SO4) and concentrated in vacuo. Recrystallisation (EtOAc/hexane) gave the title compound as white crystals (3.61 g, 77%). δH (DMSO d6) 8.89 (2H, s), 7.39 (2H, d, J 8.5 Hz), 7.32 (1H, d, J 8.2 Hz), 7.23 (2H, d, J 8.5 Hz), 4.21 (1H, m), 3.62 (3H, s), 3.05 (1H, dd, J 13.8, 4.9 Hz), 2.89 (1H, dd, J 13.8, 10.5 Hz), 1.31 (9H). m/z (ES+, 70V) 410 (M++Na).

reactant | N-BOC-L-tyrosine methyl ester | 10 mmol, 2.95 g | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)O)=O | C15H21NO5
reactant | NaH | 11 mmol, 440 mg | [H-].[Na+]
reactant | 3,5-dichloroisonicotinoyl chloride | 2.32 g | ClC1=C(C(=O)Cl)C(=CN=C1)Cl | C6H2Cl3NO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | BOC-O-(3,5-Dichloroisonicotinoyl)-L-tyrosine methyl ester | 3.61 g, 77% | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)OC(C1=C(C=NC=C1Cl)Cl)=O)=O | C21H22Cl2N2O6
